US07713993B2
Synthesis of 4-chloro-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole
Carbon tetrachloride (0.326 mL) was added to a solution of (E)-N-cyanomethyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide (400 mg) and triphenylphosphine (888 mg) in acetonitrile (20 mL), and the reaction solution was stirred at 45° C. for 12 hours. The reaction solution was concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the resulting residue, and the organic layer was separated. The resulting organic layer was sequentially washed with water and brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate) to obtain 76 mg of the title compound. The property values of the compound are as follows.

reactant | Carbon tetrachloride | 0.326 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | (E)-N-cyanomethyl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 400 mg | C(#N)CNC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C16H16N4O2
reactant | triphenylphosphine | 888 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-chloro-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole | 76 mg | ClC=1N=C(NC1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C16H15ClN4O
